*EL2001 Macromodel 
* Connections:        +input
*                       |  output
*                       |    | +Vsupply
*                       |    |    | -Vsupply
*                       |    |    |    |  
.subckt EL2001/EL       2    7    1    4  
*
* Input Stage 
*
e1 10 0 2 0 1.0
r1 10 0 1K  
rh 10 11 150  
ch 11 0 9pF    
rc 11 12 100
cc 12 0 4pF
e2 13 0 12 0 1.0
*
* Output Stage 
*
q1 4 13 14 qp  
q2 1 13 15 qn 
q3 1 14 16 qn  
q4 4 15 19 qp 
r2 16 7 1 
r3 19 7 1 
i1 1 14 0.9mA
i2 15 4 0.9mA
*
* Bias Current
*
iin+ 2 0 1uA 
*
* Models
*
.model qn npn(is=5e-15 bf=150 rb=200 ptf=45 tf=0.1nS)
.model qp pnp(is=5e-15 bf=150 rb=200 ptf=45 tf=0.1nS)
*
.ends
*EL2002 Macromodel 
* Connections:        +input
*                       |  output
*                       |    | +Vsupply
*                       |    |    | -Vsupply
*                       |    |    |    |  
.subckt EL2002/EL       2    7    1    4  
*
* Input Stage 
*
e1 10 0 2 0 1.0
r1 10 0 1K  
rh 10 11 150  
ch 11 0 2pF    
rc 11 12 100
cc 12 0 3pF
e2 13 0 12 0 1.0
*
* Output Stage 
*
q1 4 13 14 qp  
q2 1 13 15 qn 
q3 1 14 16 qn  
q4 4 15 19 qp 
r2 16 7 1 
r3 19 7 1 
i1 1 14 2mA
i2 15 4 2mA
*
* Bias Current
*
iin+ 2 0 3uA 
*
* Models
*
.model qn npn(is=5e-15 bf=150 rb=200 ptf=45 tf=0.1nS)
.model qp pnp(is=5e-15 bf=150 rb=200 ptf=45 tf=0.1nS)
*
.ends
*EL2003 Macromodel 
* Connections:        +input
*                       |  output
*                       |    | +Vsupply
*                       |    |    | -Vsupply
*                       |    |    |    |  
.subckt EL2003/EL       2    7    1    4  
*
* Input Stage 
*
e1 10 0 2 0 1.0
r1 10 0 1K  
rh 10 11 150  
ch 11 0 10pF    
rc 11 12 100
cc 12 0 3pF
e2 13 0 12 0 1.0
*
* Output Stage 
*
q1 4 13 14 qp  
q2 1 13 15 qn 
q3 1 14 16 qn  
q4 4 15 19 qp 
r2 16 7 5 
r3 19 7 5 
c1 14 0 3pF
c2 15 0 3pF
i1 1 14 3mA
i2 15 4 3mA
*
* Bias Current
*
iin+ 2 0 5uA 
*
* Models
*
.model qn npn(is=5e-15 bf=150 rb=350 ptf=45 cjc=2pF tf=0.3nS)
.model qp pnp(is=5e-15 bf=150 rb=350 ptf=45 cjc=2pF tf=0.3nS)
*
.ends
*EL2008 Macromodel 
* Connections:        +input
*                       |  output
*                       |    | +Vsupply
*                       |    |    | -Vsupply
*                       |    |    |    |  
.subckt EL2008/EL       4    2    5    1  
*
* Input Stage 
*
e1 10 0 4 0 1.0
r1 10 0 1K  
rh 10 11 1K  
ch 11 0 2.65pF    
rc 11 12 10K
cc 12 0 0.159pF
e2 13 0 12 0 1.0
*
* Output Stage 
*
q1  1 13 14 qp    
q2  5 13 15 qn 
q3  5 14 16 qn 15
q4  1 15 19 qp 15
r2 16 2 0.4
r3 19 2 0.4
c1 14 0 0.6pF
c2 15 0 0.6pF
i1 5 14 1.2mA
i2 15 1 1.2mA    
*
* Bias Current
*
iin+ 4 0 5uA 
*
* Models
*
.model qn npn(is=5e-15 bf=1500) 
.model qp pnp(is=5e-15 bf=1500)
.ends
*EL2009 Macromodel 
* Connections:        +input
*                       |  output
*                       |    | +Vsupply
*                       |    |    | -Vsupply
*                       |    |    |    |  
.subckt EL2009/EL       4    2    5    1  
*
* Input Stage 
*
e1 10 0 4 0 1.0
r1 10 0 1K  
rh 10 11 1K  
ch 11 0 1pF    
rc 11 12 6.3K
cc 12 0 0.159pF
e2 13 0 12 0 1.0
*
* Output Stage 
*
q1  1 13 14 qp    
q2  5 13 15 qn 
q3  5 14 16 qn 10
q4  1 15 19 qp 10
r2 16 2 0.2
r3 19 2 0.2
c1 14 0 1.7pF
c2 15 0 1.7pF
i1 5 14 5mA
i2 15 1 5mA    
*
* Bias Current
*
iin+ 4 0 5uA 
*
* Models
*
.model qn npn(is=5e-15 bf=500) 
.model qp pnp(is=5e-15 bf=500)
*
.ends
*EL2012 Macromodel 
* Macromodel 
* Connections:        +input
*                       |  output
*                       |    | +Vsupply
*                       |    |    | -Vsupply
*                       |    |    |    |  
.subckt EL2012/EL       4    2    5    1   
*
*Input Stage 
*
q1 5 4 10 qn
q2 13 2 11 qn
r1 10 12 200
r2 11 12 200
i1 12 1 2.6mA
i2 5 13 1.3mA
c1 5 13 6pF
*
* Output Stage  
* 
i3 5 14 3mA
i4 15 1 3mA
q3 1 13 14 qp 
q4 5 13 15 qn
q5 5 14 16 qn
q6 1 15 17 qp 
r3 16 2 0.1 
r4 2 17 0.1
*
* Power Supply Current
*
ips 5 1 5mA
*
* Models 
*
.model qn npn(is=800e-18 bf=500 tf=0.2nS ptf=45 rb=250)
.model qp pnp(is=800e-18 bf=500 tf=0.2nS ptf=45 rb=250)
.ends
e1 out vss table {(v(inp)-v(inm))*5000} = (0,0) (3.2,3.2)
Rout out vss 10meg
Rinp inp vss 10meg
Rinm inm vss 10meg
.ends comp1
e1 out vss table {(v(inp)-v(inm))*5000} = (0,0) (3.2,3.2)
Rout out vss 10meg
Rinp inp vss 10meg
Rinm inm vss 10meg
.ends comp1
e1 out vss table {(v(inp)-v(inm))*5000} = (0,0) (3.2,3.2)
Rout out vss 10meg
Rinp inp vss 10meg
Rinm inm vss 10meg
.ends comp1

